US07157491B2
2-Bromo-1-(2,2-dimethyoxy-ethoxy)-4-methyl benzene
To a 2 L round bottom flask was cooled to 0° C. a solution of 2-bromo-4-methylphenol (25 g, 133.66 mmol) in anhydrous DMF (940 ml). Then NaH (10.7 g 60% in mineral oil, 267.3 mmol) was slowly added in small portions and the reaction was warmed to room temperature (approx. 0.5 h) after which 2-bromo-1,1-dimethoxy ethane (31.6 ml, 267.4 mmol) was added. The reaction was warmed to room temperature for 3 h and then to 100° C. for 4 h. The reaction was cooled, pass through a silica plug, and concentrated. The brown mixture was diluted with EtOAc, passed through a silica plug again to remove brown solids and concentrated to 24.0 g (65%) amber colored oil: 1H NMR (300 MHz, DMSO-d6): δ 2.23 (3H, s), 3.37 (6H, s), 4.00 (2H, d, J=5.2 Hz), 4.68 (1H, t, J=5.2 Hz), 7.03 (1H, d, J=8.4 Hz), 7.12 (1H, dd, J=8.4 Hz, 1.7 Hz), 7.40 (1H, d, J=1.7 Hz).

reactant | 2-bromo-4-methylphenol | 133.66 mmol, 25 g | BrC1=C(C=CC(=C1)C)O | C7H7BrO
reactant | NaH | 267.3 mmol, 10.7 g | [H-].[Na+]
reactant | 2-bromo-1,1-dimethoxy ethane | 267.4 mmol, 31.6 ml | BrCC(OC)OC | C4H9BrO2
solvent | DMF | 940 ml | CN(C)C=O | C3H7NO
product | 2-Bromo-1-(2,2-dimethyoxy-ethoxy)-4-methyl benzene | BrC1=C(C=CC(=C1)C)OCC(OC)OC | C11H15BrO3
